US04391800
A solution of benzyl 2-acetamido-4-O-(3,4,6-tri-O-acetyl-2-deoxy-2-phthalimido-β-D-glucopyranosyl)-3,6-di-O-benzyl-2-deoxy-α-D-glucopyranoside (2.1 g, 2.3 mmol) in methanol (80 ml) and n-butylamine (20 ml) is heated for 48 hours at reflux temperature. Cooling and evaporation of the reaction mixture gives a solid that is slurried in water and lyophilized. The resulting solid is dissolved in the minimal volume of N,N-dimethylformamide and the solution applied to a column of silica gel (E. Merck, No. 7734, 70-230 mesh). Elution with 20:1 chloroform-methanol and evaporation of the appropriate fractions gives a chromatographically homogeneous solid that is dissolved in methanol (35 ml) and treated with acetic anhydride (2.5 ml) for 2 hours at room temperature. Evaporation of the reaction mixture and several coevaporations with toluene gives a solid that is crystallized from ethanol to afford pure benzyl 2-acetamido-4-O-(2-acetamido-2-deoxy-β-D-glucopyranosyl)-3,6-di-O-benzyl-2-deoxy-α-D-glucopyranoside; yield 1.1 g (69%), m.p. 252°-256° (dec.), [α]D25 +72° (c, 1.2, methanol). The 300-MHz nmr spectrum in methanol-d4 is in accord with the desired structure.

reactant | benzyl 2-acetamido-4-O-(3,4,6-tri-O-acetyl-2-deoxy-2-phthalimido-β-D-glucopyranosyl)-3,6-di-O-benzyl-2-deoxy-α-D-glucopyranoside | 2.3 mmol, 2.1 g | C(C)(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)O[C@H]1[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)N1C(C=2C(C1=O)=CC=CC2)=O)COCC2=CC=CC=C2 | C49H52N2O15
reactant | acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 80 ml | CO | CH4O
solvent | n-butylamine | 20 ml | C(CCC)N | C4H11N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | 35 ml | CO | CH4O
product | benzyl 2-acetamido-4-O-(2-acetamido-2-deoxy-β-D-glucopyranosyl)-3,6-di-O-benzyl-2-deoxy-α-D-glucopyranoside | C(C)(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)O[C@H]1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(C)=O)COCC1=CC=CC=C1 | C37H46N2O11
